US07541357B2
To a solution of LiOAc.2H2O (0.16 g, 1.62 mmol) in 97:3 CH3CN/H2O (30 mL) was added 6-chloro-2H-1-benzopyran-3-carboxylic acid (1.43 g, 8.12 mmol), followed by NBS (1.52 g, 8.53 mmol) and the mixture was stirred at room temperature for 5 hours. The reaction mixture was then concentrated to dryness under reduced pressure. Purification by flash column chromatography (gradient, hexanes, then 98:2 to 90:10 hexanes/Et2O) gave 3-bromo-6-chloro-2H-chromene (0.47 g, 27%) as a pale yellow oil: 1H NMR (300 MHz, CDCl3) δ 7.14-7.10 (m, 1H), 6.94-6.88 (m, 2H), 6.79 (d, J=8.1 Hz, 1H), 6.75 (s, 1H), 4.88 (d, J=1.5 Hz, 2H).

reactant | LiOAc.2H2O | 1.62 mmol, 0.16 g | [Li]OC(=O)C.O.O
reactant | 6-chloro-2H-1-benzopyran-3-carboxylic acid | 8.12 mmol, 1.43 g | ClC=1C=CC2=C(C=C(CO2)C(=O)O)C1 | C10H7ClO3
reactant | NBS | 8.53 mmol, 1.52 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH3CN H2O | 30 mL | CC#N.O
product | 3-bromo-6-chloro-2H-chromene | 0.47 g, 27% | BrC=1COC2=CC=C(C=C2C1)Cl | C9H6BrClO
